US05314885
A solution of 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]-benzyl amine (2.50 g, 7.37 mmol), prepared as described above, 3,3-tetramethyleneglutaric anhydride (1.12 g, 6.66 mmol), and toluene (30 mL) was heated to reflux, cooled slightly, and treated with thionyl chloride (9.72 mL, 13.32 mmol). The resulting slurry was refluxed for 30 min, cooled and the solid collected by filtration. This material was partitioned between CH2Cl2 /3N NAOH and the organic layer was separated, dried, filtered and evaporated giving 8-[[3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]phenyl]methyl]-8-azaspiro[4.5]decane-7,9-dione as a crude oil. The oil was converted to the maleate salt in i-PrOH. The isolated residue was converted back to the free base which was obtained as an oil (2.10 g). Chromatography of this material on flash silica using EtOAc/hexane of varying proportions gave an oil which was dissolved in ether and added to ethereal HCl causing formation of a solid. Filtration afforded 8-[[3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]phenyl]methyl]-8-azaspiro[4.5]decane-7,9-dione dihydrochloride (0.94 g, 25%), m.p. 212°-216° C. (dec). 1H NMR and mass spectral analysis supported the assigned structure.

reactant | 3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]-benzyl amine | 7.37 mmol, 2.50 g | CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC=1C=C(CN)C=CC1 | C21H29N3O
reactant | 3,3-tetramethyleneglutaric anhydride | 6.66 mmol, 1.12 g | C1CCC2(C1)CC(=O)OC(=O)C2 | C9H12O3
reactant | thionyl chloride | 13.32 mmol, 9.72 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 8-[[3-[[1-[2-(1-methylethoxy)phenyl]-4-piperazinyl]methyl]phenyl]methyl]-8-azaspiro[4.5]decane-7,9-dione | CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC=1C=C(C=CC1)CN1C(CC2(CCCC2)CC1=O)=O | C30H39N3O3
